US05859020
3.8 g (17.8 mmol) of 2-[4-(phenoxy)phenyl]ethanol were added to a suspension of 700 mg (23.3 mmol) of sodium hydride (80% suspension in oil) in 50 ml of dry tetrahydrofuran, and the mixture was stirred at 50° C. until the evolution of hydrogen had ceased. The mixture was cooled to room temperature, and 3.0 g (17.8 mmol) of 4-chloro-5,6,7,8-tetrahydroquinazoline were added. The mixture was then heated for 5 hours at 40° C. The reaction mixture was poured into saturated ammonium chloride solution and subsequently extracted with diethyl ether. The combined organic phase was dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel using n-heptane/ethyl acetate (2:1). 3.2 g of 4-[2-(4-(phenoxy)phenyl)ethoxy]-5,6,7,8-tetrahydroquinazoline were obtained in the form of a viscous yellow oil.

reactant | 2-[4-(phenoxy)phenyl]ethanol | 17.8 mmol, 3.8 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCO | C14H14O2
reactant | sodium hydride | 23.3 mmol, 700 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-chloro-5,6,7,8-tetrahydroquinazoline | 17.8 mmol, 3.0 g | ClC1=NC=NC=2CCCCC12 | C8H9ClN2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-[2-(4-(phenoxy)phenyl)ethoxy]-5,6,7,8-tetrahydroquinazoline | 3.2 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCOC1=NC=NC=2CCCCC12 | C22H22N2O2
